US05994344
(4,4-Diethoxy-butyl)-carbamic acid benzyl ester
Three portions of benzyl chloroformate (260 ml) in dichloromethane (170 ml) were added sequentially over 1 h 40 min to a vigorously stirred mixture of 4-aminobutyraldehyde diethyl acetal (910 ml) in dichloromethane (3 l) and aqueous sodium carbonate (1M, 3 l). Stirring was continued for 50 min until gas evolution ceased. N-(2-aminoethyl)piperazine (40 ml) was added and stirring was continued for 1 h 15 min. The layers were separated and the organic layer was washed with aqueous citric acid (1M, 3.8 l) and saturated aqueous sodium bicarbonate (2 l), dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a yellow oil (1.6 kg). T.l.c. (Ether) Rf 0.5.

reactant | benzyl chloroformate | 260 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 4-aminobutyraldehyde diethyl acetal | 910 ml | C(C)OC(CCCN)OCC | C8H19NO2
reactant | N-(2-aminoethyl)piperazine | 40 ml | NCCN1CCNCC1 | C6H15N3
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 l | ClCCl | CH2Cl2
solvent | sodium carbonate | 1M, 3 l | C([O-])([O-])=O.[Na+].[Na+]
product | (4,4-Diethoxy-butyl)-carbamic acid benzyl ester | 1.6 kg | C(C1=CC=CC=C1)OC(NCCCC(OCC)OCC)=O | C16H25NO4
